US04418202
In accordance with the procedure described in Example IV, ethyl 2-ethyl-1-phenylcyclopropane-1-carboxylate was reacted with N,N-dimethylaminoethanol to obtain 2-(N,N-dimethylamino)ethyl 2-ethyl-1-phenylcyclopropane-1-carboxylate.

reactant | ethyl 2-ethyl-1-phenylcyclopropane-1-carboxylate | C(C)C1C(C1)(C(=O)OCC)C1=CC=CC=C1 | C14H18O2
reactant | N,N-dimethylaminoethanol | CN(C)CCO | C4H11NO
product | 2-(N,N-dimethylamino)ethyl 2-ethyl-1-phenylcyclopropane-1-carboxylate | C(C)C1C(C1)(C(=O)OCCN(C)C)C1=CC=CC=C1 | C16H23NO2
